US07741315B2
Step 9: 11-(3-Chloro-4-fluorobenzyl)-9-methoxy-2-[2-(benzyloxy)ethyl]-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione
To a mixture of N-[2-(benzyloxy)ethyl]-N-(4-methanesulfonyloxybutyl)-6-(3-chloro-4-fluorobenzyl)-4-methoxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide (90 mg, 0.14 mmol) and cesium carbonate (53 mg, 0.16 mmol) in DMF was heated at 75° C. for 90 minutes. The product mixture was concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with 5% methanol in dichloromethane. Collection and concentration of appropriate fractions afforded the title compound.

reactant | N-[2-(benzyloxy)ethyl]-N-(4-methanesulfonyloxybutyl)-6-(3-chloro-4-fluorobenzyl)-4-methoxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide | 0.14 mmol, 90 mg | C(C1=CC=CC=C1)OCCN(C(=O)C=1NC(C(=C2C(N(CCC12)CC1=CC(=C(C=C1)F)Cl)=O)OC)=O)CCCCOS(=O)(=O)C | C31H35ClFN3O8S
reactant | cesium carbonate | 0.16 mmol, 53 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 11-(3-Chloro-4-fluorobenzyl)-9-methoxy-2-[2-(benzyloxy)ethyl]-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione | ClC=1C=C(CN2C(C3=C(C(N4C(=C3CC2)C(N(CCCC4)CCOCC4=CC=CC=C4)=O)=O)OC)=O)C=CC1F | C30H31ClFN3O5
